US07612114B2
2-(6-Methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine
Synthesized from 3-bromo-7-methoxy-2,2-dimethyl-1,2-dihydronaphthalene and 1-bromo-2-nitrobenzene according to an analogous synthetic method to Preparation Example 107 described below, 7-methoxy-2,2-dimethyl-3-(2-nitrophenyl)-1,2-dihydronaphthalene (1.4 g) was used according to an analogous synthetic method to Example 57 to provide the title compound (676 mg).

reactant | 3-bromo-7-methoxy-2,2-dimethyl-1,2-dihydronaphthalene | BrC=1C(CC2=CC(=CC=C2C1)OC)(C)C | C13H15BrO
reactant | 1-bromo-2-nitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 7-methoxy-2,2-dimethyl-3-(2-nitrophenyl)-1,2-dihydronaphthalene | 1.4 g | COC1=CC=C2C=C(C(CC2=C1)(C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C19H19NO3
product | 2-(6-Methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine | 676 mg | COC=1C=C2CC(C(=CC2=CC1)C1=C(C=CC=C1)N)(C)C | C19H21NO
